### ISSUE TITLE
`isDefEq` causes maximum recursion depth has been reached

### ISSUE THREAD

**Issue by Qiu233** [leanprover/lean4#6621]
### Description

This bug extremely rarely arises when working with metaprogramming.
The following is the only case it's encountered.

Though mathlib is involved, I don't think it can ever fix a function from standard library, so I put the issue here.

### Steps to Reproduce

```lean
import Mathlib

example := by
  let S := Finset.range 10000
  let P := ∏ a ∈ S, a
  have t : P = (∏ a ∈ S, a) := by rfl
  have : (?a : Finset ℕ) = ?b := by
    exact t

example := by
  let S := Finset.range 10000
  let P := ∏ a ∈ S, a
  have t : P = (∏ a ∈ S, a) := by rfl
  have : @Eq (Finset ℕ) ?a ?b := by
    exact t
```

**Expected behavior:** No error.

**Actual behavior:** Error `maximum recursion depth has been reached` throws on the `exact`s.

### Versions

* 4.9.0
* 4.11.0-rc2
* latest version test now going on
